US05236937
(EXAMPLE 6B): Chlorine gas (from 6 ml of pre-condensed chlorine) was passed into a solution of 4-amino-2,6-dimethylpyridine (2 g) in a mixture of concentrated sulphuric acid (20 ml) and water (20 ml) and the mixture was stirred for 1 hour. The mixture was then cooled to 0° C., basified with 4M sodium hydroxide and extracted with ethyl acetate. The organic phase was washed with water, saturated sodium chloride solution and dried. Solvent was removed by evaporation and the residue was purified by flash chromatography eluting with dichloromethane/methanol (9:1 v/v) to give 4-amino-3-chloro-2,6-dimethylpyridine (1.45 g) as an off white solid, m.p. 86° C.; NMR (CDCl3): 2.37(s,3H), 2.52(s,3H), 4.47(s,2H), 6.37(s,1H); mass spectrum (chemical ionisation, ammonia): 157(M+H)+.

reactant | Chlorine | 6 ml | ClCl | Cl2
reactant | 4-amino-2,6-dimethylpyridine | 2 g | NC1=CC(=NC(=C1)C)C | C7H10N2
reactant | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 4M | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | 4-amino-3-chloro-2,6-dimethylpyridine | 1.45 g | NC1=C(C(=NC(=C1)C)C)Cl | C7H9ClN2
